US07365225B2
(4-{[[(2-{4-[(octylamino)carbonyl]phenyl}-1,3-thiazol-4-yl)methyl](3-phenylpropanoyl)amino]methyl}phenoxy)acetic acid
The title compound was prepared following the procedure A using octylamine, 4-[4 (chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, 3-phenylpropanoyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 642.2

reactant | octylamine | C(CCCCCCC)N | C8H19N
reactant | 4-[4 (chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | (4-{[[(2-{4-[(octylamino)carbonyl]phenyl}-1,3-thiazol-4-yl)methyl](3-phenylpropanoyl)amino]methyl}phenoxy)acetic acid | C(CCCCCCC)NC(=O)C1=CC=C(C=C1)C=1SC=C(N1)CN(C(CCC1=CC=CC=C1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C37H43N3O5S
